US07868030B2
iii) 5-(6-Fluoro-pyridin-3-yl)-4-methyl-thiophene-2-sulfonic acid amide
5-(6-Fluoro-pyridin-3-yl)-4-methyl-thiophene-2-sulfonyl chloride (310 mg, 1.06 mmol) was dissolved in dioxane and cooled with an ice-bath. Under stirring was added dropwise an excess of ammonium hydroxide solution 25%. After two hours at room temp the reaction was neutralized and the dioxane was evaporated. The reaction mixture was extracted with ethyl acetate, the combined organic extracts were washed with brine, dried over magnesiumsulfat-dihydrate, filtered and evaporated. The crude product was purified on silica-gel with eluent ethyl acetate/n-heptane to give 218 mg of the title compound as a white solid. MS (ES): m/e 271.2 (M−H)

reactant | 5-(6-Fluoro-pyridin-3-yl)-4-methyl-thiophene-2-sulfonyl chloride | 1.06 mmol, 310 mg | FC1=CC=C(C=N1)C1=C(C=C(S1)S(=O)(=O)Cl)C | C10H7ClFNO2S2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-(6-Fluoro-pyridin-3-yl)-4-methyl-thiophene-2-sulfonic acid amide | 218 mg | FC1=CC=C(C=N1)C1=C(C=C(S1)S(=O)(=O)N)C | C10H9FN2O2S2
